US06008196
c) Preparation of N-[3-(3-pyridyl)propanoyl]-L-valyl-N-[3,3,4,4,5,5,6,6,6-nonafluoro-1-(1-methylethyl)-2-oxohexyl]-L-prolinamide
Dissolve H-Val-Pro-Val-CF2CF2CF2CF3.hydrochloride (221.0 mg, 0.40 mmol) in methylene chloride (10 mL) and cool to -20° C. while stirring. Add N-methylmorpholine (0.2 mL, 2.0 mmol) and immediately follow with a dropwise addition of 3-(3-pyridyl)propanoyl chloride in methylene chloride (5 mL) at such a rate as to maintain the internal reaction temperature at -10° C. or less. After completion of the addition, allow the reaction mixture to warm to room temperature. After 1.5 hours at room temperature, dilute the reaction mixture with methylene chloride (20 mL) and wash with 1N HCl (2×20 mL), saturated NaHCO3 (2×20 mL) and brine (1×20 mL). Dry (MgSO4) and concentrate in vacuo to give the title product in crude form. Immediately purify the crude product by flash chromatograpy (2×15 cm column eluted with 1:27 MeOH--CH2Cl2) to give the title compound.

reactant | H-Val-Pro-Val-CF2CF2CF2CF3.hydrochloride | 0.40 mmol, 221.0 mg | N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCC1.Cl
reactant | N-methylmorpholine | 2.0 mmol, 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-pyridyl)propanoyl chloride | N1=CC(=CC=C1)CCC(=O)Cl | C8H8ClNO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(3-pyridyl)propanoyl]-L-valyl-N-[3,3,4,4,5,5,6,6,6-nonafluoro-1-(1-methylethyl)-2-oxohexyl]-L-prolinamide | N1=CC(=CC=C1)CCC(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)NC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)C(C)C)CCC1 | C27H33F9N4O4
